US04080207
3-[4-(2-Acetylhydrazino)phenyl]-4-hydroxy-4-phenyl-thiazolidine-2-thione
1-Acetyl-2-(4-aminophenyl)hydrazine (8.25 g., 0.05 mole) was added to a solution of potassium acetate (4.9 g., 0.05 mole) in methanol (50 ml). The temperature was maintained below 10° C throughout the remainder of the reaction. Carbon disulfide (3.8 g., 0.05 mole) mixed with methanol (5 ml) was added dropwise to the stirred suspension which was stirred for one hour. Phenacyl chloride (3.9 g., 0.02 mole) dissolved in methanol (15 ml) was added dropwise with stirring and the reaction mixture stirred for one and one-half hours. The resulting solution was allowed to warm to room temperature; most of the methanol was removed under vacuum. The solution was diluted with water. The product separated out as a white gummy material which crystallized on stirring and chilling. The white solid was collected by filtration, washed with water, and allowed to dry at room temperature. Yield 8.7 g (97%), m.p. 80°-84° C.

reactant | 1-Acetyl-2-(4-aminophenyl)hydrazine | 0.05 mole, 8.25 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
reactant | potassium acetate | 0.05 mole, 4.9 g | C(C)(=O)[O-].[K+]
reactant | Carbon disulfide | 0.05 mole, 3.8 g | C(=S)=S | CS2
reactant | Phenacyl chloride | 0.02 mole, 3.9 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 3-[4-(2-Acetylhydrazino)phenyl]-4-hydroxy-4-phenyl-thiazolidine-2-thione | C(C)(=O)NNC1=CC=C(C=C1)N1C(SCC1(C1=CC=CC=C1)O)=S | C17H17N3O2S2
